US07186742B2
2-Chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid methyl ester
A solution of 5-acetyl-2-chloro-benzoic acid methyl ester (1.58 g, 7.5 mmol) and N,N-dimethylacetamide dimethylacetal in N,N-dimethylformamide and N,N-dimethylacetamide was stirred at 90° C. for 3 h. The mixture was cooled to room temperature and concentrated in vacuo. The residue was diluted with ethanol (18 mL) and tetrahydrofuran (2 mL). Hydrazine hydrate (0.34 mL) was added and the mixture was stirred at room temperature for 16 h. The mixture was concentrated in vacuo. The residue was purified by flash column chromatography (gradient 0–10% methanol-ethyl acetate) to afford the title compound (1.0 g).

reactant | 5-acetyl-2-chloro-benzoic acid methyl ester | 7.5 mmol, 1.58 g | COC(C1=C(C=CC(=C1)C(C)=O)Cl)=O | C10H9ClO3
reactant | N,N-dimethylacetamide dimethylacetal | COC(C)(N(C)C)OC | C6H15NO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 2-Chloro-5-(5-methyl-1H-pyrazol-3-yl)-benzoic acid methyl ester | 1.0 g | COC(C1=C(C=CC(=C1)C1=NNC(=C1)C)Cl)=O | C12H11ClN2O2
